### PR TITLE
feat(ErdosProblems): 120

### LINKED ISSUE #361: Erdős Problem 120: The Erdős similarity problem
### What is the conjecture
    
https://www.erdosproblems.com/120

  Let $A\subseteq\mathbb{R}$ be an infinite set. Must there be a set $E\subset \mathbb{R}$ of positive measure which does not contain any set of the shape $aA+b$ for some $a,b\in\mathbb{R}$ and $a\neq 0$?

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Aditi0522**
Formalizes Erdos Open Problem 120

Closes #361

### CODE REVIEW

File: FormalConjectures/ErdosProblems/120.lean [hunk 1]
```diff
@@ -0,0 +1,40 @@
...
+/--
+Let $A ⊆ R$ be an infinite set. Must there be a set $E ⊂ R$ of positive measure which
+does not contain any set of the shape $aA + b$ for some $a,b ∈ R$ and $a ≠ 0$?
+-/
+@[category research open, AMS 05 28]
+theorem erdos_120 :
+   answer(sorry) ↔ ∀ (A : Set ℝ), A.Infinite →
+   ∃ E : Set ℝ,
+   volume E > 0 ∧ ∃ a b : ℝ, a ≠ 0 ∧ ¬(Set.image (fun x => a * x + b) A ⊆ E) := by
+  sorry
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/120.lean:53]:
```suggestion
/--
Let $A \subseteq \mathbb{R}$ be an infinite set. Must there be a set $E \subseteq \mathbb{R}$
of positive measure which does not contain any set of the shape $a * A + b$
for some $a,b \in \mathbb{R}$ and $a \neq 0$?
-/
@[category research open, AMS 05 28]
theorem erdos_120 : answer(sorry) ↔ ∀ ⦃A : Set ℝ⦄, A.Infinite → ∃ E : Set ℝ,
    volume E > 0 ∧ ∃ a b : ℝ, a ≠ 0 ∧ ¬(Set.image (fun x => a * x + b) A ⊆ E) := by
  sorry
```

**Comment by felixpernegger** [comment]
Can you add the statement mentioned on the website that this is proven to be wrong for finite sets?

**Comment by Aditi0522** [comment]
I have added the statement mentioned on the website for finite sets using variants, let me know if this is the correct way to formalize this!

File: FormalConjectures/ErdosProblems/120.lean [hunk 2]
```diff
@@ -0,0 +1,47 @@
...
+for some $a,b \in \mathbb{R}$ and $a \neq 0$?
+-/
+@[category research open, AMS 05 28]
+theorem erdos_120 : answer(sorry) ↔ ∀ ⦃A : Set ℝ⦄, A.Infinite → ∃ E : Set ℝ,
+    volume E > 0 ∧ ∃ a b : ℝ, a ≠ 0 ∧ ¬(Set.image (fun x => a * x + b) A ⊆ E) := by
+  sorry
+
+/--
+Note: Steinhaus has proved Erdős 120 to be false whenever $A$ is a finite set.
+-/
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/120.lean]: Add this to the references (for style compare with other files) please :)

File: FormalConjectures/ErdosProblems/120.lean [hunk 3]
```diff
@@ -0,0 +1,47 @@
...
+@[category research solved, AMS 05 28]
+theorem erdos_120.variants.finite_set ⦃A : Set ℝ⦄ (h : A.Finite) : ¬(∃ E : Set ℝ,
+    volume E > 0 ∧ ∃ a b : ℝ, a ≠ 0 ∧ ¬(Set.image (fun x => a * x + b) A ⊆ E)) := by
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/120.lean]:
```suggestion
theorem erdos_120.variants.finite_set {A : Set ℝ} (h : A.Finite) : ¬ ∃ E : Set ℝ,
    0 < volume E ∧ ∃ a b : ℝ, a ≠ 0 ∧ ¬ Set.image (fun x => a * x + b) A ⊆ E := by
```

File: FormalConjectures/ErdosProblems/120.lean (hunk 2 above)
Comment (Aditi0522) [reply FormalConjectures/ErdosProblems/120.lean]: okay I will look into that!

File: FormalConjectures/ErdosProblems/120.lean [hunk 4]
```diff
@@ -0,0 +1,47 @@
...
+namespace Erdos120
+
+/--
+Let $A \subseteq \mathbb{R}$ be an infinite set. Must there be a set $E \subseteq \mathbb{R}$
+of positive measure which does not contain any set of the shape $a * A + b$
+for some $a,b \in \mathbb{R}$ and $a \neq 0$?
+-/
+@[category research open, AMS 05 28]
+theorem erdos_120 : answer(sorry) ↔ ∀ ⦃A : Set ℝ⦄, A.Infinite → ∃ E : Set ℝ,
+    volume E > 0 ∧ ∃ a b : ℝ, a ≠ 0 ∧ ¬(Set.image (fun x => a * x + b) A ⊆ E) := by
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/120.lean]:
```suggestion
    0 < volume E ∧ ∃ a b : ℝ, a ≠ 0 ∧ ¬ Set.image (fun x => a * x + b) A ⊆ E := by
```
brackets are unnecessary

File: FormalConjectures/ErdosProblems/120.lean (hunk 2 above)
Comment (Aditi0522) [reply FormalConjectures/ErdosProblems/120.lean]: This was the reference "[St20] Steinhaus, Hugo, Sur les distances des points dans les ensembles de measure positive. Fund. Math. (1920), 93-104" I have added it in the conventional manner but changed the name to English, lemme know if I should revert it back.

File: FormalConjectures/ErdosProblems/120.lean [hunk 5]
```diff
@@ -0,0 +1,50 @@
...
+theorem erdos_120 : answer(sorry) ↔ ∀ ⦃A : Set ℝ⦄, A.Infinite → ∃ E : Set ℝ,
+    0 < volume E ∧ ∃ a b : ℝ, a ≠ 0 ∧ ¬ Set.image (fun x => a * x + b) A ⊆ E := by
+  sorry
+
+/--
+Steinhaus [St20] has proved Erdős 120 to be false whenever $A$ is a finite set.
+
+[St20] Steinhaus, Hugo, "On the distances between points in sets of positive measure".
+ Fund. Math. (1920), 93-104.
+-/
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/120.lean:50]: 1) If possible, add a link to the paper
2) You should add the reference itself to the top, i.e. line 22 (just look how it is done in other files for example erdos 138)

File: FormalConjectures/ErdosProblems/120.lean [hunk 6]
```diff
@@ -0,0 +1,50 @@
...
+@[category research solved, AMS 05 28]
+theorem erdos_120.variants.finite_set {A : Set ℝ} (h : A.Finite) : ¬ ∃ E : Set ℝ,
+    0 < volume E ∧ ∃ a b : ℝ, a ≠ 0 ∧ ¬ Set.image (fun x => a * x + b) A ⊆ E := by
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/120.lean]:
```suggestion
@[category research solved, AMS 05 28]
theorem erdos_120.variants.finite_set {A : Set ℝ} (h : A.Finite) : ¬ ∃ E : Set ℝ,
    0 < volume E ∧ ∃ a b : ℝ, a ≠ 0 ∧ ¬ .image (fun x => a * x + b) A ⊆ E := by
```

You dont have to open ```Set```. By the way, try to click on ```Apply suggestions``` for this to be applied automatically

File: FormalConjectures/ErdosProblems/120.lean (hunk 5 above)
Comment (Aditi0522) [reply FormalConjectures/ErdosProblems/120.lean:50]: I have made the changes as suggested, Thank you for guiding me :)

File: FormalConjectures/ErdosProblems/120.lean [hunk 7]
```diff
@@ -0,0 +1,49 @@
...
+
+*Reference:*
+- [erdosproblems.com/120](https://www.erdosproblems.com/120)
+- [St20](http://matwbn.icm.edu.pl/ksiazki/fm/fm1/fm1111.pdf) Steinhaus, Hugo, Sur les distances des points dans les ensembles de measure positive. Fund. Math. (1920), 93-104.
+-/
+
+open Set MeasureTheory
+
+namespace Erdos120
+
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/120.lean:30]: I would suggest adding a predicate `Erdos120For` depending on the set `A`, which says that there exists a set `E` such that [...]. That way, you can unify the way things are stated here (and also this makes things easier to maintain if we ever need to fix stuff in this file)

Comment (Aditi0522) [reply FormalConjectures/ErdosProblems/120.lean:30]: Ah yes, things were getting a bit repetitive. I have made the changes accordingly, kindly check if that is what you were hoping for!

File: FormalConjectures/ErdosProblems/120.lean [hunk 8]
```diff
@@ -0,0 +1,55 @@
...
+def Erdos120For (A : Set ℝ) : Prop := ∃ E : Set ℝ,
+    0 < volume E ∧ ∃ a b : ℝ, a ≠ 0 ∧ ¬ .image (fun x => a * x + b) A ⊆ E
+
+/--
+Let $A \subseteq \mathbb{R}$ be an infinite set. Must there be a set $E \subseteq \mathbb{R}$
+of positive measure which does not contain any set of the shape $a * A + b$
+for some $a,b \in \mathbb{R}$ and $a \neq 0$?
+-/
+@[category research open, AMS 05 28]
+theorem erdos_120 : answer(sorry) ↔ ∀ ⦃A : Set ℝ⦄, A.Infinite → Erdos120For A := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/120.lean]:
```suggestion
theorem erdos_120 : answer(sorry) ↔ ∀ A : Set ℝ, A.Infinite → Erdos120For A := by
```

File: FormalConjectures/ErdosProblems/120.lean [hunk 9]
```diff
@@ -0,0 +1,55 @@
...
+
+namespace Erdos120
+
+/--
+There exists a set $E \subseteq \mathbb{R}$, dependent on set $A \subseteq \mathbb{R}$,
+of positive measure which does not contain any set of the shape $a * A + b$
+for some $a,b \in \mathbb{R}$ and $a \neq 0$?
+-/
+def Erdos120For (A : Set ℝ) : Prop := ∃ E : Set ℝ,
+    0 < volume E ∧ ∃ a b : ℝ, a ≠ 0 ∧ ¬ .image (fun x => a * x + b) A ⊆ E
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/120.lean]: I think the property of `E` should be that _no_ set of the form `a * A + b` for non zero `a` is contained in it?
```suggestion
  0 < volume E ∧ ∀ a b : ℝ, a ≠ 0 ∧ ¬ .image (fun x => a * x + b) A ⊆ E
```

File: FormalConjectures/ErdosProblems/120.lean (hunk 7 above)
Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/120.lean:30]: Perfect, thanks!

File: FormalConjectures/ErdosProblems/120.lean (hunk 9 above)
Comment (Aditi0522) [reply FormalConjectures/ErdosProblems/120.lean]: Hmm true, since this conjecture is also stronger than green_45 which is erdos120's special case (I worked on that first so must have merged that in)
